US07985759B2
To a stirred mixture of 1-(1-Phenyltricyclo[3.3.1.03,7]non-3-yl)ethanone (8.0 g, 33.3 mmol) as obtained in preparation 1, carbontetrachloride (66 mL), acetonitrile (66 mL) and water (100 mL), cooled to 0° C., was added sodiumperiodate (31.9 g, 149 mmol) and ruthenium (III) chloride hydrate (0.44 g, 1.7 mmol). The reaction mixture was gradually warmed to ambient temperature and stirred for 2 h. The reaction mixture was diluted with diisopropylether (100 mL) and stirred for 15 minutes to precipitate black RuO2. The reaction mixture was then filtered through a pad of celite and the organic layer was extracted with 1N NaOH solution (3×25 mL). The organic layer was dried over Na2SO4 and the solvent was evaporated under vacuum to obtain unreacted starting material (3.04 g 12.67 mmol). The aqueous layer was acidified with conc. HCl and extracted with EtOAc. The combined organic layers were washed with brine, dried over Na2SO4, and the solvent was removed under reduced pressure to obtain 3-acetyltricyclo[3.3.1.03,7]nonane-1-carboxylic acid (4.0 g) as off-white solid in 57% yield. M.R: 90-95.0° C. m/z (M+1) 209. IR cm−1 2935, 1694, 1413, 1357, 974, 746. 1H NMR (CDCl3) 300 MHz δ 2.77-2.73 (m, 1H), 2.54-2.48 (m, 1H), 2.44-2.34 (m, 1H), 2.20 (s, 3H), 2.18-2.09 (m, 1H), 7.38-7.19 (m, 5H), 2.86-2.80 (m, 1H), 2.59-2.50 (m, 1H), 2.32-2.25 (m, 1H), 2.23 (s, 3H), 2.18-2.09 (m, 1H), 2.06-1.74 (m, 7H), 1.73-1.61 (m, 1H). 13C NMR (CDCl3) 75 MHz δ 211.0, 181.3, 61.5, 50.3, 47.9, 45.9, 45.6, 42.6, 41.9, 36.8, 35.6, 26.4.

reactant | 1-(1-Phenyltricyclo[3.3.1.03,7]non-3-yl)ethanone | 33.3 mmol, 8.0 g | C1(=CC=CC=C1)C12CC3(CC(CC3C1)C2)C(C)=O | C17H20O
reactant | carbontetrachloride | 66 mL | C(Cl)(Cl)(Cl)Cl | CCl4
reactant | sodiumperiodate | 149 mmol, 31.9 g | I(=O)(=O)(=O)[O-].[Na+]
reactant | HCl | Cl | ClH
reactant | diisopropylether | 100 mL | C(C)(C)OC(C)C | C6H14O
catalyst | ruthenium (III) chloride hydrate | 1.7 mmol, 0.44 g | O.[Ru](Cl)(Cl)Cl
solvent | water | 100 mL | O | H2O
solvent | acetonitrile | 66 mL | C(C)#N | C2H3N
product | 3-acetyltricyclo[3.3.1.03,7]nonane-1-carboxylic acid | 4.0 g, 57% yield | C(C)(=O)C12CC3(CC2CC(C1)C3)C(=O)O | C12H16O3
